US06596719B1
According to Example 4b) 1.13 g 4-tert.-butyl-N-[6-chloro-5-(o-methoxy-phenoxy)-4-pyrimidinyl]-benzene sulfonamide was reacted with 2-amino-ethanol to give 1.08 g 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxy-phenoxy)-4-pyrimidinyl]-benzene sulfonamide. LC-MS: tR=3.81 min, [M−1]−=471.41

reactant | 4-tert.-butyl-N-[6-chloro-5-(o-methoxy-phenoxy)-4-pyrimidinyl]-benzene sulfonamide | 1.13 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=C(C=CC=C1)OC)Cl | C21H22ClN3O4S
reactant | 2-amino-ethanol | NCCO | C2H7NO
product | 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxy-phenoxy)-4-pyrimidinyl]-benzene sulfonamide | 1.08 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=C(C=CC=C1)OC)OCCN | C23H28N4O5S
